US04563310
Following the procedure of Example 13, methyl P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinate is reacted with 6N HCl to give P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinic acid.

reactant | methyl P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinate | C(C)P(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)F)[N+](=O)[O-] | C16H14F4NO5P
reactant | HCl | 6N | Cl | ClH
product | P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinic acid | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)F)[N+](=O)[O-] | C15H12F4NO5P
